US04871655
Synthesis of 4-nitro-2-phenoxycarbonyl-1-naphthol:
12 ml of fuming nitric acid (d=1.5) was added dropwise to a solution of 53 g of 2-phenoxycarbonyl-1-naphthol dissolved in 200 ml of chloroform was added dropwise 12 cc of fuming nitric acid (d=1.5) at 10° C. to 30° C. After 30 minutes, the precipitated crystals were filtered, washed well with cooled chloroform to obtain the desired product at a yield of 62%. The product had m.p. of 157° C., and was confirmed by NMR, Mass spectra.

reactant | nitric acid | 12 ml | [N+](=O)(O)[O-] | HNO3
reactant | 2-phenoxycarbonyl-1-naphthol | 53 g | O(C1=CC=CC=C1)C(=O)C1=C(C2=CC=CC=C2C=C1)O | C17H12O3
reactant | nitric acid | 12 cc | [N+](=O)(O)[O-] | HNO3
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-nitro-2-phenoxycarbonyl-1-naphthol | yield of 62% | [N+](=O)([O-])C1=CC(=C(C2=CC=CC=C12)O)C(=O)OC1=CC=CC=C1 | C17H11NO5
